US04838924
2,3-Dihydro-7-hydroxy-2-methoxy-2-methyl-4H-1-benzopyran (a precursor of compound No. 258)
Methyl vinyl ketone (7.7 g) was added dropwise under ice cooling to a solution composed of 11 g of resorcinol, 11.7 g of trimethyl orthoformate and 0.1 ml of conc. sulfuric acid. After the addition, the mixture was stirred at room temperature for 2 hours. The reaction mixture was neutralized with a saturated aqueous solution of sodium bicarbonate, and then extracted with ethyl acetate. The residue left after evaporation of the solvent as purified by column chromatography to give 12.5 g (yield 70%) of the desired product as colorless crystals (melting point 107°-108° C.).

reactant | Methyl vinyl ketone | 7.7 g | C(=C)C(=O)C | C4H6O
reactant | resorcinol | 11 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | trimethyl orthoformate | 11.7 g | C(OC)(OC)OC | C4H10O3
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2,3-Dihydro-7-hydroxy-2-methoxy-2-methyl-4H-1-benzopyran | 12.5 g, yield 70% | OC1=CC2=C(CCC(O2)(C)OC)C=C1 | C11H14O3
